US07560551B2
To a solution of 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (2.00 g, 9.09 mmol) in DMF was added potassium carbonate (2.51 g, 18.2 mmol) and 1-fluoro-4-nitrobenzene (0.964 ml, 9.09 mmol). The reaction mixture was flushed with nitrogen, sealed, and heated to 120° C. After 18 h, water was added and the mixture was extracted 2× with EtOAc. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo, and the crude was purify by silica gel chromatography, eluting with 0-15% EtOAc/hexanes to give 4,4,5,5-tetramethyl-2-(2-(4-nitrophenoxy)phenyl)-1,3,2-dioxaborolane as a white solid. MS m/z=342 [M+1]+. Calc'd for C18H20BNO5: 341.17.

reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 9.09 mmol, 2.00 g | CC1(OB(OC1(C)C)C1=C(C=CC=C1)O)C | C12H17BO3
reactant | potassium carbonate | 18.2 mmol, 2.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-fluoro-4-nitrobenzene | 9.09 mmol, 0.964 ml | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4,4,5,5-tetramethyl-2-(2-(4-nitrophenoxy)phenyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C1=C(C=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C | C18H20BNO5
